US06727264B1
2-METHYL-N-{3-[1-(1-METHYL-4-OXO-4-PHENYLBUTYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 4-chloro-1-phenyl-1-pentanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 407.2 (M+H)+.

reactant | 4-chloro-1-phenyl-1-pentanone | ClC(CCC(=O)C1=CC=CC=C1)C | C11H13ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-(1-METHYL-4-OXO-4-PHENYLBUTYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)C(CCC(C1=CC=CC=C1)=O)C)C | C26H34N2O2
